US09416132B2
To the solution of compound 1-(2-hydroxyethyl)piperidine-4-carbonitrile (300 mg, 2 mmol) in dry THF (5 mL) at 0° C., BH3.SMe2 (220 mg, 2.4 mmol) was added dropwise. The mixture was stirred at 0° C. for 2 hrs. Water was added then K2CO3. The mixture was filtered and concentrated to give compound 2-(4-(aminomethyl)piperidin-1-yl)ethanol (150 mg, 47%).

reactant | 1-(2-hydroxyethyl)piperidine-4-carbonitrile | 2 mmol, 300 mg | OCCN1CCC(CC1)C#N | C8H14N2O
reactant | SMe2 | 2.4 mmol, 220 mg | S(C)C | C2H6S
reactant | Water | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-(aminomethyl)piperidin-1-yl)ethanol | 150 mg, 47% | NCC1CCN(CC1)CCO | C8H18N2O
